US07064124B2
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-methoxybenzoic acid
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-methoxybenzoic acid (0.257 g, 0.684 mmol) was dissolved in a mixed solution of acetonitrile (9 ml) and water (3 ml) and after adding thereto CAN (0.937 g, 1.71 mmol) at room temperature, the solution was stirred at room temperature for 1 hour. The reaction solution was diluted with water and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was recrystallized from ether to obtain the titled compound (0.237 g, 0.683 mmol, 99%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-methoxybenzoic acid | 0.684 mmol, 0.257 g | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OC)C(=C(C1OC)OC)OC)C | C20H24O7
reactant | CAN | 1.71 mmol, 0.937 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | acetonitrile | 9 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
product | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-methoxybenzoic acid | 0.683 mmol, 0.237 g, 99% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OC)C)=O | C18H18O7
